US08058431B2
3) 4,5-Dimethoxy-2-methylamino-benzamide
2.40 g (10.1 mmol) 6,7-Dimethoxy-1-methyl-1H-benzo(d)(1,3)oxazine-2,4-dione were dissolved in 30 ml tetrahydrofuran and 15.0 ml ammonia (25%) added at 0° C. The solution was stirred for 30 min at 0° C. and for 30 min at room temperature. THF was distilled under vacuum and the remaining suspension was neutralized with diluted hydrogen chloride acid. The product was isolated by filtration.

reactant | 6,7-Dimethoxy-1-methyl-1H-benzo(d)(1,3)oxazine-2,4-dione | 10.1 mmol, 2.40 g | COC1=CC2=C(N(C(OC2=O)=O)C)C=C1OC | C11H11NO5
reactant | ammonia | 15.0 ml | N | H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4,5-Dimethoxy-2-methylamino-benzamide | COC1=CC(=C(C(=O)N)C=C1OC)NC | C10H14N2O3
